US08497264B2
A dry 100 L glass jacketed reactor equipped with an addition funnel, reflux condenser and temperature probe was charged with 5-bromo-2-(2-fluoro-4-methoxyphenoxy)benzoic acid (2340 g, 6.9 mol). TFA (11.7 L) was carefully added followed by TFAA (1144 mL). Boron trifluoride diethyl etherate (85 mL, 0.68 mol) was then carefully added. Stirring was continued to 4 hours at which point the reaction was transferred to another 100 L glass reactor containing 35.1 L of water cooled to 0° C. The resulting slurry was allowed to warm to RT and stir for 1 hour. The solids were filtered and washed with water (4.7 L) and 3 N NaOH (2×3.5 L) and water (7 L). The solids were transferred into a 22 L reactor and acetone (4.7 L) was added. The solids were slurried for 1.5 hour and the filtered, washing well with acetone (4.7 L). An additional slurry with acetone (6.4 L @ 45° C.) provided 1310 g of 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one as an off white solid.

reactant | 5-bromo-2-(2-fluoro-4-methoxyphenoxy)benzoic acid | 6.9 mol, 2340 g | BrC=1C=CC(=C(C(=O)O)C1)OC1=C(C=C(C=C1)OC)F | C14H10BrFO4
reactant | TFA | 11.7 L | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFAA | 1144 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Boron trifluoride diethyl etherate | 0.68 mol, 85 mL | B(F)(F)F.CCOCC
solvent | water | 35.1 L | O | H2O
product | 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one | 1310 g | BrC1=CC=C2OC=3C(=CC(=CC3C(C2=C1)=O)OC)F | C14H8BrFO3
